US07893257B2
Sulfuric acid mono-[2-(2-sulfooxy-ethylamino)-ethyl]ester
Diethanolamine (10.84 g) was heated with concentrated H2SO4 (20.13 g) at about 10-15 mm vacuum (house vacuum) and at a temperature in the range of about 175-180° C. for 5.5 h. The resulting solution was cooled to ambient temperature and stirred over the weekend under nitrogen. The resulting light brown solution was determined by 1H NMR to contain the title compound in solution.

reactant | Diethanolamine | 10.84 g | N(CCO)CCO | C4H11NO2
reactant | H2SO4 | 20.13 g | OS(=O)(=O)O | H2O4S
product | Sulfuric acid mono-[2-(2-sulfooxy-ethylamino)-ethyl]ester | S(=O)(=O)(O)OCCNCCOS(O)(=O)=O | C4H11NO8S2
